US07576115B2
Synthesis of 4-{[(2-{1-[5-(4-t-butylphenyl)-4-hydroxy-3-thienyl]ethylidene}hydrazino)carbonothioyl]amino}benzoic acid
2-(4-t-Butylphenyl)-3-hydroxy-4-methylcarbonylthiophene (31 mg, 0.11 mmol) synthesized in Reference Synthetic Example 33 and 4-hydrazinocarbonothioylaminobenzoic acid (23 mg, 0.11 mmol) were stirred with dimethylformamide (1.1 mL) and concentrated hydrochloric acid (0.05 mL) at room temperature for 30 hours. The reaction solution was partitioned between ethyl acetate and water, and the organic layer was washed with saturated aqueous sodium chloride and dried over anhydrous sodium sulfate. The resulting organic layer was concentrated and purified by silica gel column chromatography (chloroform) to give the desired product as a light brown solid (27 mg, yield 52%).

reactant | 2-(4-t-Butylphenyl)-3-hydroxy-4-methylcarbonylthiophene | 0.11 mmol, 31 mg | C(C)(C)(C)C1=CC=C(C=C1)C=1SC=C(C1O)C(=O)C | C16H18O2S
reactant | 4-hydrazinocarbonothioylaminobenzoic acid | 0.11 mmol, 23 mg | N(N)C(=S)NC1=CC=C(C(=O)O)C=C1 | C8H9N3O2S
reactant | hydrochloric acid | 0.05 mL | Cl | ClH
solvent | dimethylformamide | 1.1 mL | CN(C=O)C | C3H7NO
product | 4-{[(2-{1-[5-(4-t-butylphenyl)-4-hydroxy-3-thienyl]ethylidene}hydrazino)carbonothioyl]amino}benzoic acid | 27 mg, yield 52% | C(C)(C)(C)C1=CC=C(C=C1)C1=C(C(=CS1)C(C)=NNC(=S)NC1=CC=C(C(=O)O)C=C1)O | C24H25N3O3S2
